US07666878B2
1M Aqueous NaOH (0.25 mL) is added to a stirring solution of 2-[1-(3,4-dichloro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-propionic acid methyl ester (17 mg, 0.04 mmol) in 1:1 THF/MeOH (1 mL). After 4 hours, the reaction is evaporated and the residue dissolved in water. The aqueous solution is acidified to pH 1, and resulting solid is collected by filtration. The crude product is purified by flash chromatography (10:1 EtOAc/MeOH), followed by trituration with iso-hexane, to afford 2-[1-(3,4-dichloro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-propionic acid; MH+=413.

reactant | NaOH | 1M, 0.25 mL | [OH-].[Na+]
reactant | 2-[1-(3,4-dichloro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-propionic acid methyl ester | 0.04 mmol, 17 mg | COC(C(C)C1=C(N(C2=NC=CC=C21)S(=O)(=O)C2=CC(=C(C=C2)Cl)Cl)C)=O | C18H16Cl2N2O4S
solvent | THF MeOH | 1 mL | C1CCOC1.CO
product | 2-[1-(3,4-dichloro-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-propionic acid | ClC=1C=C(C=CC1Cl)S(=O)(=O)N1C(=C(C=2C1=NC=CC2)C(C(=O)O)C)C | C17H14Cl2N2O4S
